US04126689
a mixture of 5 parts of methyl 1-(1-methylethyl)-4-(phenylamino)-4-piperidinecarboxylate, 24 parts of 4-chlorobenzeneacetyl chloride, 4 parts of sodium carbonate and 180 parts of dimethylbenzene is stirred and refluxed for 32 hours. The reaction mixture is cooled, washed with a diluted sodium hydroxide solution and extracted with a diluted hydrochloric acid solution: three layers are obtained. The oil and the aqueous phase are combined and alkalized with a diluted sodium hydroxide solution. The product is extracted with 4-methyl-2-pentanone. The extract is washed with water, dried, filtered and evaporated. The residue is converted into the ethanedioate salt in 2-propanol. The salt is filtered off and crystallized from a mixture of 2-propanol and 2,2'-oxybispropane, yielding 5 parts (48%) of methyl 4-[N-(4-chlorophenyl)acetyl-N-phenylamino]-1-(1-methylethyl)-4-piperidinecarboxylate ethanedioate; mp. 154.2° C.

reactant | methyl 1-(1-methylethyl)-4-(phenylamino)-4-piperidinecarboxylate | CC(C)N1CCC(CC1)(C(=O)OC)NC1=CC=CC=C1 | C16H24N2O2
reactant | 4-chlorobenzeneacetyl chloride | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylbenzene | CC1=C(C=CC=C1)C | C8H10
product | methyl 4-[N-(4-chlorophenyl)acetyl-N-phenylamino]-1-(1-methylethyl)-4-piperidinecarboxylate ethanedioate | 48% | C(C(=O)O)(=O)O.ClC1=CC=C(C=C1)CC(=O)N(C1=CC=CC=C1)C1(CCN(CC1)C(C)C)C(=O)OC | InChI=1S/C24H29ClN2O3.C2H2O4/c1-18(2)26-15-13-24(14-16-26,23(29)30-3)27(21-7-5-4-6-8-21)22(28)17-19-9-11-20(25)12-10-19;3-1(4)2(5)6/h4-12,18H,13-17H2,1-3H3;(H,3,4)(H,5,6)
